US06900216B2
n-Butyllithium (2.5M solution in hexanes; 105.3 ml) was added dropwise under nitrogen at 0° C. over 30 minutes to a stirred solution of methyltriphenyl-phosphonium bromide (75.16 g) in tetrahydrofuran (250 ml), then the mixture was stirred at ambient temperature for 90 minutes. A solution of 6,7-dihydrobenzo[b]thiophen-4(5H)-one (20 g) in tetrahydrofuran (200 ml) was added, the mixture was stirred at ambient temperature for 1 hour, then it was heated under reflux for 24 hours and cooled to ambient temperature. The solvents were removed in vacuo and the residue was purified by flash chromatography over silica using a 98:2 mixture of petroleum ether (b.p. 60-80° C.) and dichloromethane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 4-methylene-4,5,6,7-tetrahydrobenzo[b]thiophene (8.8 g) as a yellow oil which was used without further purification.

reactant | n-Butyllithium | 2.5M, 105.3 ml | C(CCC)[Li]
reactant | 6,7-dihydrobenzo[b]thiophen-4(5H)-one | 20 g | S1C2=C(C=C1)C(CCC2)=O | C8H8OS
catalyst | methyltriphenyl-phosphonium bromide | 75.16 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-methylene-4,5,6,7-tetrahydrobenzo[b]thiophene | 8.8 g | C=C1CCCC=2SC=CC21 | C9H10S
